US07208629B2
N3-Cyclopropyl-N4′-(2-hydroxyethyl)-6-methyl-1,1′-biphenyl-3,4′-dicarboxamide
HATU (65 mg, 0.17 mmol) was added to a solution of {3′-[(cyclopropylamino)carbonyl]-6′-methyl-biphen-4-yl} carboxylic acid (50 mg, 0.17 mmol) in DMF (2 ml). After 5 minutes HOBT (23 mg, 0.17 mmol), amine (0.17 mmol) and DIPEA (0.087 ml, 0.51 mmol) were added and the reaction mixture stirred at room temperature under nitrogen for 18 hours. Ethyl acetate (50 ml) and hydrochloric acid (1M, 50 ml) were added and the layers separated. The organic layer was washed with aqueous sodium carbonate (1M, 50 ml), brine (25 ml), dried (magnesium sulphate) and solvent removed in vacuo. The crude material was purified by SPE cartridge (Si, 5 g) eluting with DCM:ethanol:ammonia 400:8:1, then, ethyl acetate, acetonitrile, acetone and ethanol to yield the desired product.

reactant | HATU | 0.17 mmol, 65 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | {3′-[(cyclopropylamino)carbonyl]-6′-methyl-biphen-4-yl} carboxylic acid | 0.17 mmol, 50 mg | C1(CC1)NC(=O)C=1C=C(C2=CC=C(C=C2)C(=O)O)C(=CC1)C | C18H17NO3
reactant | HOBT | 0.17 mmol, 23 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.51 mmol, 0.087 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | hydrochloric acid | 1M, 50 ml | Cl | ClH
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N3-Cyclopropyl-N4′-(2-hydroxyethyl)-6-methyl-1,1′-biphenyl-3,4′-dicarboxamide | C1(CC1)NC(=O)C=1C=C(C(=CC1)C)C1=CC=C(C=C1)C(=O)NCCO | C20H22N2O3
